US05300523
The mixture of 5.4 g (0.033 (-)-2-aminomethylchroman example 92f; αD =-22.8), 6.1 g (0.06 mol) triethylamine, 9.5 g (0.03 mol) N-(4-bromobutyl)saccharin and 80 ml anhydrous dimethyl formamide was heated to 60° C. for 4 h. The solvent was evaporated at 0.01 torr. The residue (13.5 g) was dissolved in toluene/ethyl acetate (5:1) and chromatographed on silica (300 g). The fraction (5.8 g) obtained by elution with toluene/ethyl acetate 1:1 was rechromatographed on 150 g of silica, providing 3.7 g of chemically pure 2-{N-[4-(1,1-Dioxido-3-oxo-2,3-dihydro-benzisothiazol-2-yl)butyl]aminomethyl}chroman.

reactant | (-)-2-aminomethylchroman | NCC1OC2=CC=CC=C2CC1 | C10H13NO
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | N-(4-bromobutyl)saccharin | 0.03 mol, 9.5 g | BrCCCCN1S(=O)(=O)C2=CC=CC=C2C1=O | C11H12BrNO3S
solvent | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-{N-[4-(1,1-Dioxido-3-oxo-2,3-dihydro-benzisothiazol-2-yl)butyl]aminomethyl}chroman | O=S1(N(C(C2=C1C=CC=C2)=O)CCCCNCC2OC1=CC=CC=C1CC2)=O | C21H24N2O4S
